US07456164B2
2-Methyl-1-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-1H-imidazo[4,5-c]pyridine
N*4*-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyridine-3,4-diamine (60 mg, 0.15 mmol) and acetic anhydride (˜1 mL) were stirred at reflux for 18 hours. The reaction mixture was quenched with ˜1 mL water, then basified with dilute sodium carbonate solution then extracted with DCM (2×20 mL). The organics were combined, dried over sodium sulphate, filtered and concentrated in vacuo to give a brown oil. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:5:0.5 to 90:10:1 by volume) to provide the title compound as a brown oil (19 mg, 30%). 1H NMR (400 MHz, CDCl3) δ 1.78-1.82 (m, 6H), 1.97-2.10 (m, 5H), 2.23 (m, 2H), 2.54 (m, 4H), 2.62 (t, 2H), 3.40 (m, 2H), 3.82 (m, 2H), 4.00 (t, 2H), 4.07 (s, 2H), 6.80-6.88 (m, 4H), 7.00 (d, 1H), 8.30 (d, 1H), 8.92 (s, 1H). LRMS ESI+ m/z 435 [MH]+.

reactant | N*4*-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyridine-3,4-diamine | 0.15 mmol, 60 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC1=C(C=NC=C1)N | C24H34N4O2
reactant | acetic anhydride | ˜1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methyl-1-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-1H-imidazo[4,5-c]pyridine | 19 mg, 30% | CC=1N(C2=C(C=NC=C2)N1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C26H34N4O2
